US07714010B2
To a solution of (2-hydroxymethyl-phenyl)-carbamic acid tert-butyl ester (0.8 g; 3.6 mmol) in EtOAc (15 ml) at 0° C. is added NEt3 (610 μl) and methanesulfonyl chloride (340 μl). After addition the mixture is warmed to RT and stirred for 3 days. After completion the reaction mixture is acidified with diluted hydrochloric acid and extracted twice with EtOAc. The organic phase is washed with brine, dried over MgSO4 and evaporated to give methanesulfonic acid 2-tert-butoxycarbonylamino-benzyl ester (0.73 g).

reactant | (2-hydroxymethyl-phenyl)-carbamic acid tert-butyl ester | 3.6 mmol, 0.8 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)CO)=O | C12H17NO3
reactant | NEt3 | 610 μl | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 340 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | methanesulfonic acid 2-tert-butoxycarbonylamino-benzyl ester | 0.73 g | C(C)(C)(C)OC(=O)NC1=C(COS(=O)(=O)C)C=CC=C1 | C13H19NO5S
